US08242280B2
To a mixture of 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.2 mmol) and 5-(3-Bromo-phenyl)-5-methyl-imidazolidine-2,4-dione (54 mg, 0.2 mmol) in a 5 mL microwave reaction flask was added THF (1 mL), acetonitrile (1 mL) and sodium carbonate (1 mL, 1 N aqueous solution, 1 mmol). The mixture was purged with nitrogen for 30 seconds. Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct (16 mg, 0.02 mmol) was added and the purging continued for another 30 seconds. The flask was sealed and irradiated in a microwave reactor to 150° C. for 40 min. Saturated sodium chloride (5 mL) was added and the pH was adjusted to 7 using hydrochloric acid (1 N). The resulting mixture was extracted with ethyl acetate (5 mL×3). The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexane to afford 5-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-5-methyl-imidazolidine-2,4-dione as a pale yellow solid (57 mg, 50% yield).

reactant | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.2 mmol, 100 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 5-(3-Bromo-phenyl)-5-methyl-imidazolidine-2,4-dione | 0.2 mmol, 54 mg | BrC=1C=C(C=CC1)C1(C(NC(N1)=O)=O)C | C10H9BrN2O2
reactant | sodium carbonate | 1 mmol, 1 N, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | 5 mL | [Cl-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 0.02 mmol, 16 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-5-methyl-imidazolidine-2,4-dione | 57 mg, 50% yield | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(C=CC2)C2(C(NC(N2)=O)=O)C)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S
